US04654350
2.76 g of Na is dissolved in 180 ml of ethanol; 19.1 g of o-chlorobenzylmercaptan and 16.76 g of 4-chloro-1-methyl-1H-imidazo(4,5-c)pyridine are added; the mixture is boiled for 16 hours and evaporated; and the residue is worked up in the customary manner to give 4-o-chloro-benzylthio-1-methyl-1H-imidazo(4,5-c)pyridine of m.p. 152°-155° (from ethanol).

reactant | o-chlorobenzylmercaptan | 19.1 g | ClC1=C(CS)C=CC=C1 | C7H7ClS
reactant | 4-chloro-1-methyl-1H-imidazo(4,5-c)pyridine | 16.76 g | ClC1=NC=CC2=C1N=CN2C | C7H6ClN3
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | 4-o-chloro-benzylthio-1-methyl-1H-imidazo(4,5-c)pyridine | ClC1=C(CSC2=NC=CC3=C2N=CN3C)C=CC=C1 | C14H12ClN3S
